data/mechanism_extracts/JACS/10.1021_jacs.9b05572.json
{"doi": "10.1021_jacs.9b05572", "journal": "JACS", "is_review": false, "rxn_class_summary": "Visible-light photocatalytic remote double functionalization of 5-aryl-1,2,4-oxadiazolines to spiro-azalactams via energy-transfer-generated iminyl radicals and singlet oxygen.", "mechanism_family": ["photoredox_combined", "biradical", "other"], "electrochemical_role": null, "key_intermediates": [{"name": "triplet excited oxadiazoline 1a*", "smiles": null, "role": "reactive"}, {"name": "singlet oxygen (1O2)", "smiles": "O=O", "role": "reactive"}, {"name": "5-hydroperoxy oxadiazoline excited species D*", "smiles": null, "role": "reactive"}, {"name": "iminyl (N-centered) radical A", "smiles": null, "role": "reactive"}, {"name": "spirocyclic C-centered radical E (post-ipso attack)", "smiles": null, "role": "transient"}, {"name": "cyclohexadienyl hydroperoxide F", "smiles": null, "role": "transient"}, {"name": "hydroperoxyl radical HOO•", "smiles": "O[O]", "role": "transient"}, {"name": "radical cation B (excluded electron-transfer intermediate)", "smiles": null, "role": "off_pathway"}, {"name": "radical anion C (excluded electron-transfer intermediate)", "smiles": null, "role": "off_pathway"}], "electron_flow": "fac-Ir(ppy)3 is photoexcited and undergoes triplet-triplet energy transfer in parallel to both the oxadiazoline 1a (giving 1a*) and to O2 (giving 1O2); 1O2 inserts at C5 of 1a* to form excited hydroperoxide D*, whose homolytic N–O cleavage releases HOO• and an iminyl radical A that performs ipso attack on the pendant arene, with the resulting spirocyclic radical E trapped by O2/HOO• at the para position to give 3a after loss of water.", "rate_determining_step": "Homolytic N–O bond cleavage of the excited hydroperoxy intermediate D* generating iminyl radical A (DFT TS1 N–O ≈ 24.9 kcal/mol on the favored pathway).", "probe_reagents": [{"name": "18O2 isotopic labeling", "smiles": null, "purpose": "isotope_label", "observation": "Product 3a exclusively contained 18O, confirming O2 as the oxygen source incorporated at the para position."}, {"name": "SmI2 (chemical one-electron reductant)", "smiles": null, "purpose": "redox_probe", "observation": "No 3a formed (0%); 1a recovered (94%), excluding a reductive SET pathway via radical anion B."}, {"name": "Ceric ammonium nitrate (CAN)", "smiles": null, "purpose": "redox_probe", "observation": "Gave only 2a (20%) and trace 3a, ruling out oxidative SET pathway via radical cation C."}, {"name": "Benzil (triplet sensitizer, ET = 2.57 eV)", "smiles": "O=C(c1ccccc1)C(=O)c1ccccc1", "purpose": "intermediate_trap", "observation": "Afforded 3a (32%), supporting triplet-triplet energy-transfer activation of 1a."}, {"name": "1,3-Diphenylisobenzofuran (DPBF)", "smiles": "c1ccc(-c2oc(-c3ccccc3)c4ccccc24)cc1", "purpose": "intermediate_trap", "observation": "Bleaching of DPBF absorbance confirmed 1O2 generation by fac-Ir(ppy)3; ΦΔ = 0.95."}, {"name": "DABCO (1O2 quencher)", "smiles": "C1CN2CCN1CC2", "purpose": "intermediate_trap", "observation": "Reaction completely suppressed (0% 3a), confirming requirement of singlet oxygen."}, {"name": "NaN3 (1O2 quencher)", "smiles": "[N-]=[N+]=[N-].[Na+]", "purpose": "intermediate_trap", "observation": "Yield reduced to 33%, consistent with 1O2 involvement."}, {"name": "Sterically hindered 2,6-disubstituted substrate 1b", "smiles": null, "purpose": "other", "observation": "No 3b formed; ipso attack sterically disfavored, supporting iminyl radical ipso cyclization."}, {"name": "Chemical 1O2 sources (NaOH/Na2MoO4/H2O2 or Ca(OH)2/H2O2)", "smiles": null, "purpose": "other", "observation": "No 3a formed (1a recovered 97%), showing 1a* (not ground-state 1a) is required."}, {"name": "Benzoyl peroxide (PhCO2)2", "smiles": "O=C(OOC(=O)c1ccccc1)c1ccccc1", "purpose": "other", "observation": "Only 10% 3a with 31% 2a side product, demonstrating need for visible-light photocatalysis."}, {"name": "Light on/off and photon flux variation", "smiles": null, "purpose": "other", "observation": "No dark reactivity; nonlinear photon-flux dependence consistent with two-photon excitation of both 1a and O2."}, {"name": "Ferrioxalate actinometry", "smiles": null, "purpose": "other", "observation": "Quantum yield 16–18% (<50%), excluding radical chain propagation."}, {"name": "Cyclic voltammetry of 1a / fac-Ir(ppy)3", "smiles": null, "purpose": "redox_probe", "observation": "Eox(1a)=+1.24 V, Ered(1a)=−2.16 V vs SCE vs E*red(Ir)=+0.16 V and E*ox(Ir)=−1.62 V — both SET directions thermodynamically forbidden."}], "evidence_types_used": ["isotope_label", "intermediate_trap_other", "on/off_light_or_current", "UV_vis", "cyclic_voltammetry", "DFT", "isolation_of_intermediate", "kinetic_order", "stoichiometric_intermediate"], "evidence_strength": "strong", "notes": "Authors favor dual energy-transfer (Dexter to 1a, confirmed by ln(ET rate) ∝ [1a]^(−1/3); Förster-like to O2) producing 1a* and 1O2 that combine to D*, then homolytic N–O cleavage to iminyl radical A and ipso arene attack. An alternative pathway (ortho-hydroperoxidation of spiro radical E followed by [1,3]-sigmatropic shift via intermediate F) is mentioned as plausible based on DFT spin densities (para 0.605 vs ortho 0.415). Electron-transfer pathways via radical cation C or radical anion B are explicitly excluded by redox potentials and by SmI2/CAN control experiments."}
